* (1) Imported from PROBE3.0
* 41 cell masters
* AND2_{X1,X2}, AND3_{X1,X2}, AOI21_{X1,X2}, AOI22_{X1,X2}, BUF_{X1,X2,X4,X8}, DFFHQN_X1, DFFRNQ_X1, LHQ_X1,
* INV_{X1,X2,X4,X8}, MUX2_X1, NAND2_{X1,X2}, NAND3_{X1,X2}, NAND4_{X1,X2}, NOR2_{X1,X2}, 
* NOR3_{X1,X2}, NOR4_{X1,X2}, OAI21_{X1,X2}, OAI22_{X1,X2}, OR2_{X1,X2}, OR3_{X1,X2}, XOR2_X1
* (See https://github.com/ABKGroup/PROBE3.0/blob/96022ba7d4da783f0713401455f1f26d008b75c0/DesignEnablement/Cadence_Synopsys/inputs/PROBE_2F.cdl)

* (2) Imported from SO3-Cell for Scalability Test
* 1 cell master
* 2BDFFHQN_X1
* (See https://github.com/ckchengucsd/SO3-Cell/blob/2689f258b8ba86697b2e055cffb26b0f90f2d973/Enablement/cdl/SO3_L3.cdl)

* (3) Modified ASAP7 CDL netlist for evaluation purpose
* 4 cell masters
* DFFHQN_{X3, X4}, BUF_X16

.SUBCKT AND2_X1 A1 A2 VDD VSS Z
MM4 Z net10 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net10 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 net10 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 Z net10 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 net20 A2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 net10 A1 net20 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT AND2_X2 A1 A2 VDD VSS Z
MM4 Z net10 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 net10 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 net10 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 Z net10 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM3 net20 A2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 net10 A1 net20 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS   

.SUBCKT AND3_X1 A1 A2 A3 VDD VSS Z
MM7 Z net10 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 net10 A3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 net10 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM4 net10 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 Z net10 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 net30 A3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 net20 A2 net30 VSS nmos_rvt w=46.0n l=16n nfin=2
MM0 net10 A1 net20 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT AND3_X2 A1 A2 A3 VDD VSS Z
MM7 Z net10 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM6 net10 A3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 net10 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM4 net10 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 Z net10 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 net30 A3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 net20 A2 net30 VSS nmos_rvt w=46.0n l=16n nfin=2
MM0 net10 A1 net20 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT AOI21_X1 A1 A2 B VDD VSS ZN
MM5 ZN B VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM4 net2 A1 ZN VSS nmos_rvt w=46.00n l=16n nfin=2
MM3 net2 A2 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM2 net6 B VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM1 net6 A1 ZN VDD pmos_rvt w=46.00n l=16n nfin=2
MM0 net6 A2 ZN VDD pmos_rvt w=46.00n l=16n nfin=2
.ENDS

.SUBCKT AOI21_X2 A1 A2 B VDD VSS ZN
MM5 VSS B ZN VSS nmos_rvt w=92.00n l=16n nfin=4
MM4 ZN A1 net2 VSS nmos_rvt w=92.00n l=16n nfin=4
MM3 VSS A2 net2 VSS nmos_rvt w=92.00n l=16n nfin=4
MM2 VDD B net6 VDD pmos_rvt w=92.00n l=16n nfin=4
MM1 ZN A1 net6 VDD pmos_rvt w=92.00n l=16n nfin=4
MM0 ZN A2 net6 VDD pmos_rvt w=92.00n l=16n nfin=4
.ENDS

.SUBCKT AOI22_X1 A1 A2 B1 B2 VDD VSS ZN
MM7 net1 B2 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM6 ZN B1 net1 VSS nmos_rvt w=46.00n l=16n nfin=2
MM5 net0 A1 ZN VSS nmos_rvt w=46.00n l=16n nfin=2
MM4 VSS A2 net0 VSS nmos_rvt w=46.00n l=16n nfin=2
MM3 net2 B2 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM2 VDD B1 net2 VDD pmos_rvt w=46.00n l=16n nfin=2
MM1 ZN A1 net2 VDD pmos_rvt w=46.00n l=16n nfin=2
MM0 net2 A2 ZN VDD pmos_rvt w=46.00n l=16n nfin=2
.ENDS

.SUBCKT AOI22_X2 A1 A2 B1 B2 VDD VSS ZN
MM7 net1 B2 VSS VSS nmos_rvt w=92.00n l=16n nfin=4
MM6 ZN B1 net1 VSS nmos_rvt w=92.00n l=16n nfin=4
MM5 net0 A1 ZN VSS nmos_rvt w=92.00n l=16n nfin=4
MM4 VSS A2 net0 VSS nmos_rvt w=92.00n l=16n nfin=4
MM3 net2 B2 VDD VDD pmos_rvt w=92.00n l=16n nfin=4
MM2 VDD B1 net2 VDD pmos_rvt w=92.00n l=16n nfin=4
MM1 ZN A1 net2 VDD pmos_rvt w=92.00n l=16n nfin=4
MM0 net2 A2 ZN VDD pmos_rvt w=92.00n l=16n nfin=4
.ENDS

.SUBCKT BUF_X1 I VDD VSS Z
MM3 Z IN VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 IN I VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM0 Z IN VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 IN I VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT BUF_X2 I VDD VSS Z
MM3 Z IN VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 IN I VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM0 Z IN VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 IN I VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT BUF_X4 I VDD VSS Z
MM3 Z IN VSS VSS nmos_rvt w=184.0n l=16n nfin=8
MM2 IN I VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM0 Z IN VDD VDD pmos_rvt w=184.0n l=16n nfin=8
MM1 IN I VDD VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS

.SUBCKT BUF_X8 I VDD VSS Z
MM3 Z IN VSS VSS nmos_rvt w=368.0n l=16n nfin=16
MM2 IN I VSS VSS nmos_rvt w=184.0n l=16n nfin=8
MM0 Z IN VDD VDD pmos_rvt w=368.0n l=16n nfin=16
MM1 IN I VDD VDD pmos_rvt w=184.0n l=16n nfin=8
.ENDS

.SUBCKT DFFHQN_X1 CLK D VDD VSS QN
MM4 net10 net3 net12 VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 VSS D net12 VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 VSS net10 net8 VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 VSS net8 net9 VSS nmos_rvt w=46.0n l=16n nfin=2
MM9 net10 net4 net9 VSS nmos_rvt w=46.0n l=16n nfin=2
MM12 net8 net4 net1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM14 net7 net1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM16 VSS net7 net6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM17 net1 net3 net6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM20 net3 CLK VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM23 net4 net3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM24 QN net1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 VDD D net16 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net10 net4 net16 VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 VDD net10 net8 VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 net10 net3 net15 VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 VDD net8 net15 VDD pmos_rvt w=46.0n l=16n nfin=2
MM13 net8 net3 net1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM15 net7 net1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM18 net1 net4 net14 VDD pmos_rvt w=46.0n l=16n nfin=2
MM19 VDD net7 net14 VDD pmos_rvt w=46.0n l=16n nfin=2
MM21 net3 CLK VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM22 net4 net3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM25 QN net1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT INV_X1 I VDD VSS ZN
MM0 ZN I VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 ZN I VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT INV_X2 I VDD VSS ZN
MM0 ZN I VSS VSS nmos_rvt w=92.00n l=16n nfin=4
MM1 ZN I VDD VDD pmos_rvt w=92.00n l=16n nfin=4
.ENDS

.SUBCKT INV_X4 I VDD VSS ZN
MM0 ZN I VSS VSS nmos_rvt w=184.00n l=16n nfin=8
MM1 ZN I VDD VDD pmos_rvt w=184.00n l=16n nfin=8
.ENDS

.SUBCKT INV_X8 I VDD VSS ZN
MM0 ZN I VSS VSS nmos_rvt w=368.00n l=16n nfin=16
MM1 ZN I VDD VDD pmos_rvt w=368.00n l=16n nfin=16
.ENDS

.SUBCKT MUX2_X1 I0 I1 S VDD VSS Z
MM11 Z net5 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM10 VSS I0 net6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM9 net6 net2 net5 VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 net5 S net4 VSS nmos_rvt w=46.0n l=16n nfin=2
MM7 VSS I1 net4 VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 net2 S VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 Z net5 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM4 VDD I0 net11 VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 net11 S net5 VDD pmos_rvt w=46.0n l=16n nfin=2
MM2 net5 net2 net10 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 VDD I1 net10 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 net2 S VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT NAND2_X1 A1 A2 VDD VSS ZN
MM3 net16 A2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 ZN A1 net16 VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 ZN A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 ZN A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT NAND2_X2 A1 A2 VDD VSS ZN
MM3 net16 A2 VSS VSS nmos_rvt w=92.00n l=16n nfin=4
MM2 ZN A1 net16 VSS nmos_rvt w=92.00n l=16n nfin=4
MM1 ZN A2 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM0 ZN A1 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS

.SUBCKT NAND3_X1 A1 A2 A3 VDD VSS ZN
MM5 net17 A3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 net16 A2 net17 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 ZN A1 net16 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 ZN A3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 ZN A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 ZN A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT NAND3_X2 A1 A2 A3 VDD VSS ZN
MM5 net17 A3 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM4 net16 A2 net17 VSS nmos_rvt w=92.0n l=16n nfin=4
MM3 ZN A1 net16 VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 ZN A3 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 ZN A2 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM0 ZN A1 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS

.SUBCKT NAND4_X1 A1 A2 A3 A4 VDD VSS ZN
MM7 net18 A4 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 net17 A3 net18 VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 net16 A2 net17 VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 ZN A1 net16 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 ZN A4 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM2 ZN A3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 ZN A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 ZN A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT NAND4_X2 A1 A2 A3 A4 VDD VSS ZN
MM7 net18 A4 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM6 net17 A3 net18 VSS nmos_rvt w=92.0n l=16n nfin=4
MM5 net16 A2 net17 VSS nmos_rvt w=92.0n l=16n nfin=4
MM4 ZN A1 net16 VSS nmos_rvt w=92.0n l=16n nfin=4
MM3 ZN A4 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM2 ZN A3 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 ZN A2 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM0 ZN A1 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS

.SUBCKT NOR2_X1 A1 A2 VDD VSS ZN
MM3 VSS A1 ZN VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 VSS A2 ZN VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 net16 A1 ZN VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A2 net16 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT NOR2_X2 A1 A2 VDD VSS ZN
MM3 VSS A1 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 VSS A2 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM1 net16 A1 ZN VDD pmos_rvt w=92.0n l=16n nfin=4
MM0 VDD A2 net16 VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS

.SUBCKT NOR3_X1 A1 A2 A3 VDD VSS ZN
MM5 VSS A1 ZN VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 VSS A2 ZN VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 VSS A3 ZN VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 net20 A1 ZN VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net10 A2 net20 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A3 net10 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT NOR3_X2 A1 A2 A3 VDD VSS ZN
MM5 VSS A1 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM4 VSS A2 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM3 VSS A3 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 net20 A1 ZN VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 net10 A2 net20 VDD pmos_rvt w=92.0n l=16n nfin=4
MM0 VDD A3 net10 VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS

.SUBCKT NOR4_X1 A1 A2 A3 A4 VDD VSS ZN
MM7 VSS A1 ZN VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 VSS A2 ZN VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 VSS A3 ZN VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 VSS A4 ZN VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 net30 A1 ZN VDD pmos_rvt w=46.0n l=16n nfin=2
MM2 net20 A2 net30 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net10 A3 net20 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A4 net10 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT NOR4_X2 A1 A2 A3 A4 VDD VSS ZN
MM7 VSS A1 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM6 VSS A2 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM5 VSS A3 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM4 VSS A4 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM3 net30 A1 ZN VDD pmos_rvt w=92.0n l=16n nfin=4
MM2 net20 A2 net30 VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 net10 A3 net20 VDD pmos_rvt w=92.0n l=16n nfin=4
MM0 VDD A4 net10 VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS

.SUBCKT OAI21_X1 A1 A2 B VDD VSS ZN
MM5 VDD B ZN VDD pmos_rvt w=46.00n l=16n nfin=2
MM3 ZN A1 net7 VDD pmos_rvt w=46.00n l=16n nfin=2
MM4 VDD A2 net7 VDD pmos_rvt w=46.00n l=16n nfin=2
MM2 VSS B net0 VSS nmos_rvt w=46.00n l=16n nfin=2
MM0 ZN A1 net0 VSS nmos_rvt w=46.00n l=16n nfin=2
MM1 ZN A2 net0 VSS nmos_rvt w=46.00n l=16n nfin=2
.ENDS

.SUBCKT OAI21_X2 A1 A2 B VDD VSS ZN
MM5 VDD B ZN VDD pmos_rvt w=92.00n l=16n nfin=4
MM3 ZN A1 net7 VDD pmos_rvt w=92.00n l=16n nfin=4
MM4 VDD A2 net7 VDD pmos_rvt w=92.00n l=16n nfin=4
MM2 VSS B net0 VSS nmos_rvt w=92.00n l=16n nfin=4
MM0 ZN A1 net0 VSS nmos_rvt w=92.00n l=16n nfin=4
MM1 ZN A2 net0 VSS nmos_rvt w=92.00n l=16n nfin=4
.ENDS

.SUBCKT OAI22_X1 A1 A2 B1 B2 VDD VSS ZN
MM7 VDD B2 net8 VDD pmos_rvt w=46.00n l=16n nfin=2
MM6 ZN B1 net8 VDD pmos_rvt w=46.00n l=16n nfin=2
MM4 net9 A1 ZN VDD pmos_rvt w=46.00n l=16n nfin=2
MM5 VDD A2 net9 VDD pmos_rvt w=46.00n l=16n nfin=2
MM3 VSS B2 net2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM2 VSS B1 net2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM0 ZN A1 net2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM1 ZN A2 net2 VSS nmos_rvt w=46.00n l=16n nfin=2
.ENDS

.SUBCKT OAI22_X2 A1 A2 B1 B2 VDD VSS ZN
MM7 VDD B2 net8 VDD pmos_rvt w=92.00n l=16n nfin=4
MM6 ZN B1 net8 VDD pmos_rvt w=92.00n l=16n nfin=4
MM4 net9 A1 ZN VDD pmos_rvt w=92.00n l=16n nfin=4
MM5 VDD A2 net9 VDD pmos_rvt w=92.00n l=16n nfin=4
MM3 VSS B2 net2 VSS nmos_rvt w=92.00n l=16n nfin=4
MM2 VSS B1 net2 VSS nmos_rvt w=92.00n l=16n nfin=4
MM0 ZN A1 net2 VSS nmos_rvt w=92.00n l=16n nfin=4
MM1 ZN A2 net2 VSS nmos_rvt w=92.00n l=16n nfin=4
.ENDS

.SUBCKT OR2_X1 A1 A2 VDD VSS Z
MM5 Z net2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 VSS A1 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 VSS A2 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 Z net2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net2 A1 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A2 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT OR2_X2 A1 A2 VDD VSS Z
MM5 Z net2 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM4 VSS A1 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 VSS A2 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 Z net2 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 net2 A1 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A2 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT OR3_X1 A1 A2 A3 VDD VSS Z
MM7 Z net2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 VSS A1 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 VSS A2 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 VSS A3 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 Z net2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM2 net2 A1 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net7 A2 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A3 net7 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT OR3_X2 A1 A2 A3 VDD VSS Z
MM7 Z net2 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM6 VSS A1 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 VSS A2 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 VSS A3 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 Z net2 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM2 net2 A1 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net7 A2 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A3 net7 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT XOR2_X1 A1 A2 VDD VSS Z
MM9 VSS A2 net5 VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 net5 A1 Z VSS nmos_rvt w=46.0n l=16n nfin=2
MM7 VSS net2 Z VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 VSS A1 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 VSS A2 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 Z A2 net8 VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 Z A1 net8 VDD pmos_rvt w=46.0n l=16n nfin=2
MM2 VDD net2 net8 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net2 A1 net7 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A2 net7 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT DFFRNQ_X1 D RN CK Q VDD VSS 
MM27 VSS CK ncki VSS nmos_rvt w=46.0n l=16n nfin=2
MM26 cki ncki VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM25 net10 D VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM24 net1 ncki net10 VSS nmos_rvt w=46.0n l=16n nfin=2
MM23 net15 cki net1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM22 net12 net2 net15 VSS nmos_rvt w=46.0n l=16n nfin=2
MM21 VSS RN net12 VSS nmos_rvt w=46.0n l=16n nfin=2
MM20 net2 net1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM19 net8 cki net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM18 net11 ncki net8 VSS nmos_rvt w=46.0n l=16n nfin=2
MM17 VSS net4 net11 VSS nmos_rvt w=46.0n l=16n nfin=2
MM16 net0 RN VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM15 net4 net8 net0 VSS nmos_rvt w=46.0n l=16n nfin=2
MM14 VSS net4 Q VSS nmos_rvt w=46.0n l=16n nfin=2
MM13 VDD CK ncki VDD pmos_rvt w=46.0n l=16n nfin=2
MM12 cki ncki VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 net10 D VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 net1 cki net10 VDD pmos_rvt w=46.0n l=16n nfin=2
MM9 net9 ncki net1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM8 VDD net2 net9 VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 net9 RN VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 net2 net1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 net8 ncki net2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM4 net11 cki net8 VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 VDD net4 net11 VDD pmos_rvt w=46.0n l=16n nfin=2
MM2 net4 RN VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 VDD net8 net4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD net4 Q VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS 

.SUBCKT LHQ_X1 D E Q VDD VSS 
MM15 net4 E VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM14 net7 net4 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM13 net3 D VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM12 net5 net7 net3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM11 net2 net4 net5 VSS nmos_rvt w=46.0n l=16n nfin=2
MM10 VSS net6 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM9 net6 net5 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 Q net5 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM7 net4 E VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 net7 net4 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 net1 D VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM4 net5 net4 net1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 net0 net7 net5 VDD pmos_rvt w=46.0n l=16n nfin=2
MM2 VDD net6 net0 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net6 net5 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 Q net5 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS 

.SUBCKT 2BDFFHQN_X1 CLK D0 D1 VDD VSS QN0 QN1
MM20 net3 CLK VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM21 net3 CLK VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM23 net4 net3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM22 net4 net3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM4_2 net10 net3 net12 VSS nmos_rvt w=46.0n l=16n nfin=2
MM5_2 VSS D0 net12 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3_2 VDD D0 net16 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1_2 net10 net4 net16 VDD pmos_rvt w=46.0n l=16n nfin=2
MM6_2 VSS net10 net8 VSS nmos_rvt w=46.0n l=16n nfin=2
MM7_2 VDD net10 net8 VDD pmos_rvt w=46.0n l=16n nfin=2
MM10_2 net10 net3 net15 VDD pmos_rvt w=46.0n l=16n nfin=2
MM11_2 VDD net8 net15 VDD pmos_rvt w=46.0n l=16n nfin=2
MM8_2 VSS net8 net9 VSS nmos_rvt w=46.0n l=16n nfin=2
MM9_2 net10 net4 net9 VSS nmos_rvt w=46.0n l=16n nfin=2
MM13_2 net8 net3 net1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM12_2 net8 net4 net1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM14_2 net7 net1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM15_2 net7 net1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM16_2 VSS net7 net6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM17_2 net1 net3 net6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM18_2 net1 net4 net14 VDD pmos_rvt w=46.0n l=16n nfin=2
MM19_2 VDD net7 net14 VDD pmos_rvt w=46.0n l=16n nfin=2
MM24_2 QN0 net1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM25_2 QN0 net1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM41 net101 net3 net121 VSS nmos_rvt w=46.0n l=16n nfin=2
MM51 VSS D1 net121 VSS nmos_rvt w=46.0n l=16n nfin=2
MM31 VDD D1 net161 VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 net101 net4 net161 VDD pmos_rvt w=46.0n l=16n nfin=2
MM61 VSS net101 net81 VSS nmos_rvt w=46.0n l=16n nfin=2
MM71 VDD net101 net81 VDD pmos_rvt w=46.0n l=16n nfin=2
MM101 net101 net3 net151 VDD pmos_rvt w=46.0n l=16n nfin=2
MM111 VDD net81 net151 VDD pmos_rvt w=46.0n l=16n nfin=2
MM81 VSS net81 net91 VSS nmos_rvt w=46.0n l=16n nfin=2
MM91 net101 net4 net91 VSS nmos_rvt w=46.0n l=16n nfin=2
MM131 net81 net3 net11 VDD pmos_rvt w=46.0n l=16n nfin=2
MM121 net81 net4 net11 VSS nmos_rvt w=46.0n l=16n nfin=2
MM141 net71 net11 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM151 net71 net11 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM161 VSS net71 net61 VSS nmos_rvt w=46.0n l=16n nfin=2
MM171 net11 net3 net61 VSS nmos_rvt w=46.0n l=16n nfin=2
MM181 net11 net4 net141 VDD pmos_rvt w=46.0n l=16n nfin=2
MM191 VDD net71 net141 VDD pmos_rvt w=46.0n l=16n nfin=2
MM241 QN1 net11 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM251 QN1 net11 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT DFFHQN_X3 CLK D QN VDD VSS
MM24 QN SH VSS VSS nmos_rvt w=138.0n l=16n nfin=6
MM23 clkb clkn VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM20 clkn CLK VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM17 SH clkn pd5 VSS nmos_rvt w=46.0n l=16n nfin=2
MM16 pd5 SS VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM14 SS SH VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM12 MS clkb SH VSS nmos_rvt w=46.0n l=16n nfin=2
MM9 MH clkb pd3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 pd3 MS VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 MS MH VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 pd1 D VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 MH clkn pd1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM25 QN SH VDD VDD pmos_rvt w=138.0n l=16n nfin=6
MM22 clkb clkn VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM21 clkn CLK VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM19 pd4 SS VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM18 SH clkb pd4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM15 SS SH VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM13 MS clkn SH VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 pd2 MS VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 MH clkn pd2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 MS MH VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 MH clkb pu1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 pu1 D VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT DFFHQN_X4 CLK D Q VDD VSS
MM38 Q net049 VSS VSS nmos_rvt w=184.0n l=16n nfin=8
MM24 net049 SH VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM23 clkb clkn VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM20 clkn CLK VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM17 SH clkn pd5 VSS nmos_rvt w=46.0n l=16n nfin=2
MM16 pd5 SS VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM14 SS SH VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM12 MS clkb SH VSS nmos_rvt w=46.0n l=16n nfin=2
MM9 MH clkb pd3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 pd3 MS VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 MS MH VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 pd1 D VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 MH clkn pd1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM25 net049 SH VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM22 clkb clkn VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM21 clkn CLK VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM19 pd4 SS VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM18 SH clkb pd4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM15 SS SH VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM13 MS clkn SH VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 pd2 MS VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 MH clkn pd2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 MS MH VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 MH clkb pu1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM37 Q net049 VDD VDD pmos_rvt w=184.0n l=16n nfin=8
MM3 pu1 D VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS

.SUBCKT BUF_X16 I VDD VSS Z
MM3 Z IN VSS VSS nmos_rvt w=736.0n l=16n nfin=32
MM2 IN I VSS VSS nmos_rvt w=368.0n l=16n nfin=16
MM0 Z IN VDD VDD pmos_rvt w=736.0n l=16n nfin=32
MM1 IN I VDD VDD pmos_rvt w=368.0n l=16n nfin=16
.ENDS
